US08440662B2
Step 4: N-(2-Dimethylamino-ethyl)-N-methyl-4-{3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ureido}-benzamide
To a solution of 4-[3-(4-bromo-phenyl)-ureido]-N-(2-dimethylamino-ethyl)-N-methyl-benzamide (5.0 g, 0.0119 mol) in 1,4-dioxane (250 mL) were added bis(pinacolato) diboron (4.5 g, 0.01789 mol), KOAc (3.5 g, 0.0357 mol) and PdCl2(dppf).DCM (0.681 g, 0.00083 mol). The reaction vessel was purged with nitrogen for 10 min. The reaction mixture was stirred at 105° C. for 12 h. The reaction mixture was diluted with water and extracted with ethyl acetate [3×100 mL]. The organic layer was washed with water, brine and dried over sodium sulfate. The solvent was removed under reduced pressure to afford the crude residue. The crude product was purified using column chromatography (60-120 silica gel, 40% MeOH in chloroform) to get the desired product [0.5 g, 9%]; 1H NMR (300 MHz, DMSO-d6): δ 7.66-7.72 (m, 4H), 7.46-7.60 (m, 3H), 7.28-7.32 (m, 1H), 4.01 (d, J=6.6 Hz, 4H), 2.94 (s, 3H), 1.80-1.98 (m, 6H), 1.28 (s, 12H); LC-MS (ESI): Calculated mass: 466.3; Observed mass: 467.2 [M+H]+ (RT: 0.62 min).

reactant | 4-[3-(4-bromo-phenyl)-ureido]-N-(2-dimethylamino-ethyl)-N-methyl-benzamide | 0.0119 mol, 5.0 g | BrC1=CC=C(C=C1)NC(NC1=CC=C(C(=O)N(C)CCN(C)C)C=C1)=O | C19H23BrN4O2
reactant | bis(pinacolato) diboron | 0.01789 mol, 4.5 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 0.0357 mol, 3.5 g | CC(=O)[O-].[K+]
reactant | DCM | 0.00083 mol, 0.681 g | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 250 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-(2-Dimethylamino-ethyl)-N-methyl-4-{3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-ureido}-benzamide | 0.5 g, 9% | CN(CCN(C(C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C)C | C25H35BN4O4
